US06903091B2
[1,1′-Biphenyl]-4-yl-(5,11-dihydro-benzo[b]pyrido[2,3-e][1,4]diazepin-6-yl)-methanone
To a solution of 6,11-dihydro-5H-pyrido [2,3-b][1,5]benzodiazepine (1.0 g, 5.07 mmol) in N,N-dimethylformamide (10 mL) kept under nitrogen was added solid potassium carbonate (0.74 g, 5.35 mmol). The mixture was treated dropwise with a solution of 4-biphenylcarbonyl chloride (1.4 g, 6.46 mmol) in N,N-dimethylformamide (5 mL) and stirred at room temperature for 1 hour. The mixture was then diluted with water and extracted with ethyl acetate. The organic extracts were combined and washed with 1N sodium hydroxide, dried over anhydrous sodium sulfate and evaporated to dryness to give a pink foam which was purified by flash chromatography. Elution with 25% ethyl acetate in hexane provided a white foam which was redissolved in dichloromethane, concentrated in vacuo to a foam, then crystallized by sonication from ethyl acetate/hexane to give the title compound (1.28 g, 66.9%) as a white solid, m.p. 175-177° C.

reactant | 6,11-dihydro-5H-pyrido [2,3-b][1,5]benzodiazepine | 5.07 mmol, 1.0 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
reactant | potassium carbonate | 5.35 mmol, 0.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-biphenylcarbonyl chloride | 6.46 mmol, 1.4 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [1,1′-Biphenyl]-4-yl-(5,11-dihydro-benzo[b]pyrido[2,3-e][1,4]diazepin-6-yl)-methanone | 1.28 g, 66.9% | C1(=CC=C(C=C1)C(=O)N1C2=C(NC3=C(C1)C=CC=N3)C=CC=C2)C2=CC=CC=C2 | C25H19N3O
